US05264577
Step B: Preparation of Ethyl α-amino-9H -xanthene-9-acetate hydrochloride
Ethyl α-nitro-9H-xanthene-9-acetate (7.5 g, 24 mmol) is dissolved in 150 mL of ethanol and 2 mL of concentrated hydrochloric acid and hydrogenated over 1.0 g of 20% palladium on carbon (53 hours, 51 pounds per square inch (psi)). The filtered solution is stripped of solvent and washed with dichloromethane. This gives 4.83 g of the title compound. An additional crop, 0.61 g is obtained after cooling the dichloromethane wash. The crops are combined and used in the next step.

reactant | Ethyl α-nitro-9H-xanthene-9-acetate | 24 mmol, 7.5 g | [N+](=O)([O-])C(C(=O)OCC)C1C2=CC=CC=C2OC=2C=CC=CC12 | C17H15NO5
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | Ethyl α-amino-9H -xanthene-9-acetate hydrochloride | Cl.NC(C(=O)OCC)C1C2=CC=CC=C2OC=2C=CC=CC12 | InChI=1S/C17H17NO3.ClH/c1-2-20-17(19)16(18)15-11-7-3-5-9-13(11)21-14-10-6-4-8-12(14)15;/h3-10,15-16H,2,18H2,1H3;1H
